Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Lovenox
 
Attending: ___.
 
Chief Complaint:
increased seizure frequency (sensation rising up arm to face to 
leg)
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
HISTORY OF THE PRESENTING ILLNESS:
#ERROR!
The patient is a ___ year old woman, currently 8-weeks pregnant,
with recently diagnosed cortical VST and right parietal infarct
complicated by focal seizures recently discharged from the 
stroke
service who now represents to the ED after 2 breakthrough focal
sensory seizures.

To briefly review her recent hospitalization, she was originally
admitted to the stroke service at ___ on ___ as a transfer
from ___ after originally presenting with headache, emesis, and
left arm numbness/weakness. While at ___, she had an MRI/MRV and
was found to have right parietal infarct with hemorrhage due to
cortical venous sinus thrombosis. The patient was transferred to
___ and started on systemic anticoagulation (first with
heparin, then Lovenox as heparin was not immediately effective)
and admitted to the neuro ICU for close monitoring. 

Her hospitalization was complicated by focal sensory seizures,
involving tingling of the left fingertips, spreading proximally
up the arm to the corner of her mouth, with secondary
generalization on one occasion for which she was started on
Keppra. Dose was increased to ___ mg BID due to two short
episodes of left arm tingling without generalization on ___,
while she was still admitted. With the higher dose, she
experienced no further sensory symptoms. 
 
This morning, however, at approximately 4 AM, she awoke with
tingling in her left finger tips and the corner of the left side
of her mouth. Over the course of 5 to 10 minutes, her symptoms
spread proximally to the left shoulder and began to involve the
left half of her tongue such that she was talking "with a lisp"
according to her husband. As the tingling in her mouth resolved,
she noticed tingling along the dorsum of her left foot. She is
unable to say if this spread up her leg towards her thigh. These
leg and mouth symptoms persisted for 45 minutes before 
resolving.
The left arm tingling persisted for several hours. 

She had a mild headache in the afternoon which was relieved with
Tylenol. 

Then, at about 2:15 ___, she had another event similar to the one
earlier in the morning. This started with tingling in the left
side of her face and left finger tips as well as numbness along
the left half of her tongue. Neither episode involved any
impairment in awareness.

The patient has been adherent with both her Keppra and Lovenox.
She has not missed any doses of either. She has taken a total of
4 days worth of Keflex for a UTI that was diagnosed while she 
was
admitted. She has no urinary complaints at this time.
 
Patient currently endorsing left cheek, hand, and arm tingling.
Denies any current symptoms in the left leg.

Of note, per discharge summary: 

"Given Xa Level slightly elevated on 110 mg, and taking into
account the pharmacokinetics of pregnancy, her dose was changed
dose of lovenox from 110 mg to 100 mg twice a day at time of
discharge recommended by pharmacy, with follow up Xa levels
planned to be followed at maternal-fetal medicine and 
hematology visits."

However, discharge summary medication list states "Enoxaparin
(Treatment) 110 mg SC Q12H.

On neurological ROS, the patient denies loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Endorses weakness associated
with the sensory changes because she "could not feel" her arm
normally. No other focal weakness. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
1. Migraine headache
2. Pregnancy
 
Social History:
___
Family History:
Denies family history of stroke, seizure, PEs, DVTs, 
miscarriages

 
Physical Exam:
Physical Exam no Admission:
PHYSICAL EXAMINATION:
#ERROR!
Vitals: T 97.9, HR 123, BP 151/103, RR 20, Sa 99% RA
General: Awake, cooperative, slightly anxious.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: Gravid, soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic Exam:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 5 to 3 mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch. Endorsing tingling
along the V2 and V3 distributions. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   5    ___    5    5      5   
R  5    ___   5    ___    5    5      5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No agraphesthesia in
either hand.

-DTRs: ___ adductors
  ___ Tri ___ Pat Ach
L  2  2    2    3   2
R  2  2    2    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait/Station: Deferred
#ERROR!

Physical Exam on Discharge:
PHYSICAL EXAMINATION:
#ERROR!
Vitals: 24 HR Data (last updated ___ @ 644)
    Temp: 98 (Tm 98.3), BP: 140/90 (115-140/77-90), HR: 100
(93-100), RR: 18, O2 sat: 96% (96-98), O2 delivery: RA, Wt: 237
lb/107.5 kg  

General: Awake, cooperative, slightly anxious.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: Gravid, soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic Exam:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 5 to 3 mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch. Endorsing tingling
along the V2 and V3 distributions. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   5    ___    5    5      5   
R  5    ___   5    ___    5    5      5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No agraphesthesia in
either hand. 

-DTRs: 
 Differed. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. Slight dysmetria on FNF of Left hand based on thumb
test with increased difficulty grabbing right thumb, likely
sensory related difficulty.    

-Gait/Station: Deferred
 
Pertinent Results:
___ 07:00AM BLOOD WBC-8.1 RBC-4.53 Hgb-12.7 Hct-37.8 MCV-83 
MCH-28.0 MCHC-33.6 RDW-12.7 RDWSD-38.3 Plt ___
___ 03:14PM BLOOD Neuts-72.7* ___ Monos-5.4 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-5.89 AbsLymp-1.70 
AbsMono-0.44 AbsEos-0.02* AbsBaso-0.02
___ 07:00AM BLOOD ___ PTT-33.9 ___
___ 07:00AM BLOOD Heparin-0.46
___ 11:09PM BLOOD LMWH-0.93
___ 07:00AM BLOOD Glucose-89 UreaN-8 Creat-0.5 Na-140 K-4.3 
Cl-104 HCO3-19* AnGap-17
___ 07:00AM BLOOD Calcium-9.5 Phos-3.6 Mg-1.9
___ 07:00AM BLOOD LEVETIRACETAM (KEPPRA)-PND
___ 04:40PM URINE Blood-TR* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.5 
Leuks-MOD*
___ 04:40PM URINE RBC-3* WBC-9* Bacteri-NONE Yeast-NONE 
Epi-1

___ 4:40 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION

EEG read is pending.
 
Brief Hospital Course:
This is a ___ year old woman, currently 8-weeks pregnant, with 
recently diagnosed cortical VST and right parietal infarct 
complicated by focal seizures who represents to the ED after 2 
breakthrough focal sensory seizures.  These events are described 
as left-sided paresthesias going up her arm, to her face, and 
with new symptoms of extending to her leg.  Exam on presentation 
was notable for paresthesias in the left face, along V2 and V3 
distributions.  Her exam this morning was with resolved 
paresthesias, improvement in prior agraphesthesia, and 
improvement in left arm strength, and only noticeable for slight 
sensory dysmetria on left arm.  Based on patient's exam and 
symptoms, there is very low concern for worsening venous sinus 
thrombosis or hemorrhage.  The concern for her current etiology 
is focal seizures versus local edema with secondary symptoms.  
The 45-minute time course of these events is more concerning for 
local edema, but the nocturnal prevalence of the events, and her 
increased Keppra (levetiracetam) clearance seen by her 
levetiracetam level on ___ being 15.3, makes increase Keppra 
clearance as a likely possibility for subtherapeutic levels at 
time of events.  Plan will be for extended routine EEG 
inpatient, and ambulatory EEG outpatient, with outpatient 
epilepsy specialist to follow.  At time of discharge plan will 
be to increase Keppra from ___ mg twice daily to ___ mg in the 
morning, and 3000 mg in the evening.  Plan to otherwise continue 
other medications as at time of last discharge, with the 
exception of discontinuing her empiric antibiotics for UTI, as 
cultures grew out negative for any specific organism.  

Transitional issues:
[] Ambulatory EEG.
[] ___ Doctors to Follow-up factor Xa levels as previously 
discussed.  Currently on enoxaparin 100 mg twice daily. 
[] Follow up as previously described in last DC summary. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prenatal Vitamins 1 TAB PO DAILY 
2. Cephalexin 500 mg PO BID 
3. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
4. FoLIC Acid 1 mg PO DAILY 
5. LevETIRAcetam ___ mg PO BID 
6. Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
7. Enoxaparin (Treatment) 100 mg SC Q12H Cortical Vein 
Thrombosis  

 
Discharge Medications:
1.  LevETIRAcetam 3000 mg PO QHS 
RX *levetiracetam [Keppra] 1,000 mg 3 tablet(s) by mouth at 
bedtime Disp #*180 Tablet Refills:*0 
2.  LevETIRAcetam ___ mg PO QAM 
RX *levetiracetam 1,000 mg 2 tablet(s) by mouth once a day 
(Morning) Disp #*120 Tablet Refills:*0 
3.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
4.  Enoxaparin (Treatment) 100 mg SC Q12H Cortical Vein 
Thrombosis  
RX *enoxaparin 100 mg/mL 1 mL SubQ twice a day Disp #*40 Syringe 
Refills:*0 
5.  FoLIC Acid 1 mg PO DAILY  
6.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
7.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Increased Focal onset Seizure without generalization.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ neurology with symptoms of increased 
paresthesia extending now to your leg on your left side, 
concerning for increased seizure frequency in the setting of 
right parietal infarct with hemorrhage from cortical venous 
sinus thrombosis.  Your symptom pattern is concerning for focal 
seizures versus coming and going symptoms in the setting of 
expected local swelling from your cortical venous sinus 
thrombosis.  Your symptoms have been having a nighttime pattern, 
and have resolved on examination this morning.  Your exam has 
continued to improve with now only mild sensory dysmetria on 
your left arm/hand.  We checked your Keppra/levetiracetam levels 
upon arrival, and these results will be available to your 
outpatient epilepsy neurologist on follow-up.  We have also 
obtained a routine extended EEG to look for focal seizures.  
These results will also be available for your outpatient 
epilepsy neurologist.  Lastly we are recommending that you have 
a outpatient continuous EEG/home EEG for further evaluation of 
these events to help differentiate between seizure and local 
swelling.  These results will be followed up with your 
outpatient epilepsy/seizure specialist.

We are making the following medication changes:
- We are stopping your antibiotic for your urinary tract 
infection, as final cultures are negative for urinary tract 
infection.

-We are changing your Keppra/levetiracetam dosing from ___ mg 
twice a day to ___ mg in the morning, and 3000 mg at night 
given your nighttime pattern of seizure-like events.

-Continue taking enoxaparin/Lovenox ___ mg twice a day.

****FOR HOME EEG PREPARATION:****
#ERROR!
Dear Ms. ___, 
  

___, MD has requested that you be scheduled for an 
electroencephlogram (EEG) test.  If you did not get an 
appointment today, please call ___ to schedule one.  
The tests will be performed at the EEG Lab on the ___ Floor of 
the ___ at ___.  Prior to the test, make sure that your hair is clean 
and dry and that no oils, gels, hairsprays, or conditioners are 
used on the day of the study. Also make sure that you have had a 
reasonably substantial meal prior to the study. 

As previously planned you will follow-up with all your 
providers.  You should also continue to take your prenatal 
vitamins, folic acid, enoxaparin, and Zofran as previously 
described at last discharge.

You should continue to follow safety precautions for prevention 
of injury from the seizure.  You should call if there is any 
noticed increased call frequency or pattern of events, and if 
more concerned he should report to the emergency room.  Please 
report to the emergency room immediately if you have any events 
leading to loss of consciousness.

Thank you for the opportunity partake in your care, 
The ___ neurology team.
 
Followup Instructions:
___